US06984649B1
To a stirred solution of 2′-hydroxyacetophenone (5.000 g, 36.724 mmol) in acetonitrile (200 mL) was added potassium carbonate (7.613 g, 55.086 mmol). The mixture was stirred at 50° C. for 30 min. 4-Nitrobenzyl bromide (8.727 g, 40.396 mmol) was added to the mixture, and the stirring was continued at 50° C. for 12 hrs. Potassium carbonate (0.508 g, 3.672 mmol) and 4-nitrobenzyl bromide (0.793 g, 3.672 mmol) were added to the mixture and the resulting mixture was stirred at 50° C. for 12 hrs. After cooled to room temperature, the reaction mixture was concentrated under reduced pressure and diluted with ethyl acetate. The organic phase was washed with water, dried over Na2SO4, filtered, and concentrated. The resulting residue was washed with hexane to give 1-{2-[(4-nitrobenzyl)oxy]phenyl}ethanone as a white solid. (8.900 g, yield; 89%)

reactant | 2′-hydroxyacetophenone | 36.724 mmol, 5.000 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | potassium carbonate | 55.086 mmol, 7.613 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Nitrobenzyl bromide | 40.396 mmol, 8.727 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | Potassium carbonate | 3.672 mmol, 0.508 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrobenzyl bromide | 3.672 mmol, 0.793 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 1-{2-[(4-nitrobenzyl)oxy]phenyl}ethanone | yield; 89% | [N+](=O)([O-])C1=CC=C(COC2=C(C=CC=C2)C(C)=O)C=C1 | C15H13NO4
